US05750531
Step 3: 2,4-dichlorocyclopenta[d]pyrimidine
A mixture solution of phosphorous oxychloride(49 ml), N,N-dimethylaniline(8.0 ml) and 2,4-dihydroxycyclopenta[d]pyrimidine(15.4 g, 0.1 mol) prepared in the above Step 2 was heated to reflux for 3 hours and cooled to a room temperature. After the reaction mixture was diluted with dichloromethane, the diluted solution was added to ice water, while maintaining the temperature of the reaction system below 10° C. The reaction mixture was extracted with dichloromethane, dried over anhydrous sodium sulfate and concentrated in vacuo to give 2.8 g of titled compound as an oily form. (Yield: 15%)

reactant | phosphorous oxychloride | 49 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 8.0 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | 2,4-dihydroxycyclopenta[d]pyrimidine | 0.1 mol, 15.4 g | OC1=NC(=C2C(N1)=CC=C2)O | C7H6N2O2
reactant | dichloromethane | ClCCl | CH2Cl2
product | 2,4-dichlorocyclopenta[d]pyrimidine | 2.8 g, Yield: 15% | ClC1=NC(=C2C(N1)=CC=C2)Cl | C7H4Cl2N2
